US08486984B2
7.7 N-[5-(4-Isopropyl-benzenesulfonylamino)-indan-2-ylmethyl]-propionamide
N-(5-Amino-indan-2-ylmethyl)-propionamide (0.93 g, 4.26 mmol) was dissolved in pyridine-dichloromethane (1:2, 60 mL) and cooled to 5° C. 4-Isopropylbenzenesulfonyl chloride (0.98 g, 4.48 mmol) was added and the solution stirred at 5° C. for 3 h. Solution was evaporated, partitioned between ethyl acetate and water, and the organic phase separated and dried over MgSO4. The filtered solution was concentrated to give the product as a brown oil (1.69 g, 99%).

reactant | N-(5-Amino-indan-2-ylmethyl)-propionamide | 4.26 mmol, 0.93 g | NC=1C=C2CC(CC2=CC1)CNC(CC)=O | C13H18N2O
reactant | 4-Isopropylbenzenesulfonyl chloride | 4.48 mmol, 0.98 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
solvent | pyridine dichloromethane | 60 mL | N1=CC=CC=C1.ClCCl
product | N-[5-(4-Isopropyl-benzenesulfonylamino)-indan-2-ylmethyl]-propionamide | 1.69 g, 99% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2CC(CC2=CC1)CNC(CC)=O | C22H28N2O3S
